US06831080B2
Preparation of (±)-3-Pyridin-2-yl-N-[1-(3-trifluoromethoxyphenyl)ethyl]acrylamide
To a solution of 3-(pyridin-2-yl)acrylic acid, Preparation 16 (50 mg) in CH2Cl2 (2 mL) at room temperature were added (±)-1-(3-trifluoromethoxy phenyl)ethylamine, Preparation 15 (76 mg), EDC hydrochloride (129 mg), DMAP (41 mg), and triethylamine (0.2 mL), and the resulting solution was stirred at room temperature for 12 hours. The crude product was purified by silica gel chromatography eluting with ethyl acetate to provide the title compound as the racemate (96 mg). This racemate was separated by HPLC using AD column eluting with hexanes/ethanol (9:1) to give the title compound as an enantiomer of undetermined chirality.

reactant | 3-(pyridin-2-yl)acrylic acid | N1=C(C=CC=C1)C=CC(=O)O | C8H7NO2
reactant | (±)-1-(3-trifluoromethoxy phenyl)ethylamine | FC(OC=1C=C(C=CC1)C(C)N)(F)F | C9H10F3NO
reactant | EDC hydrochloride | 129 mg | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 41 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (±)-3-Pyridin-2-yl-N-[1-(3-trifluoromethoxyphenyl)ethyl]acrylamide | N1=C(C=CC=C1)C=CC(=O)NC(C)C1=CC(=CC=C1)OC(F)(F)F | C17H15F3N2O2
